Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I took sleeping pills."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with a past history of
depression and 1 previous suicide attempt who was BIBA from
apartment after an attempted overdose in the setting of alcohol
intoxication. Patient's EtOH on arrival was 192.
     On interview, the patient states that she had "a moment"
where she wanted to die last night and says she took "a handful"
of melatonin.  After throwing up, she called the ambulance. The
patient states that she has been depressed for years, but it has
worsened in the past couple of months. Her depression started
around ___ when she was having a lot of relationship issues. 
When she was dating her boyfriend from ___, she had 3
abortions, and developed a lot of "trust issues."  She had a
suicide attempt by overdose a few years ago, when she went to 
the
emergency department at a hospital in ___ (where she is
from), but she did not receive any follow up help with her
depression.  After breaking up with her last boyfriend, she
started dating a new boyfriend ___.  This boyfriend went to
___ for the summer, leaving around ___.  She says they have
been having many problems since he left.  She describes having
many fights with him over finding messages on his facebook
account that he tries to delete before she finds them.  He 
denies
cheating on her, but she suspects it.  
     In addition, he parents have "wanted a divorce" since she
was in elementary school but have continued to live together for
her whole life until this ___.  Her parents are officially
separating this month (moving ___.  
     The patient also reports difficultly in school.  She was
scheduled to take classes at ___ this
___, but was sick with a viral illness for 2 weeks at the
beginning of ___. Since she was unable to attend class for 2
weeks, she had to withdrawal from classes, but it was too late 
to
get a tuition refund.  She says that she lost $17,000 because of
this, and he family has difficultly affording this. 
     The patient also endorses difficultly sleeping, fatigue,
decreased concentration, and decreased interest in playing 
piano.
She has feelings of guilt over wasting tuition money, as well as
fighting with her boyfriend.  ___ current SI. Denies HI. 
     Patient also states that she has been feeling
"claustrophobic," which she describes as having episodes where
she is SOB, feels shaky, feels dizzy, and has palpitations.  She
states that these often happen when she fights to her boyfriend. 


Psychiatric ROS:
Psychosis - denies symptoms including delusions (persecutory,
grandiose, thought broadcasting/insertion/withdrawal) or
hallucinations (auditory, visual, olfactory, or tactile). 
Mania- denies symptoms including elevated mood or irritability,
marked increases in goal-directed behavior, racing thoughts, or 
a
decreased need for sleep
Depression - as per HPI
Anxiety - as per HPI

Collateral: Patient refused to allow the team to contact her
parents. Patient states that she does not have any close local
friends who the team could talk to. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Diagnoses: depression
Hospitalizations: None
Current treaters and treatment: None
Medication and ECT trials: None
Self-injury/Suicide attempts: 1 past suicide attempt by overdose 
a few years ago in ___. Patient went to the ED at a 
hospital in ___. She reports that she did not go inpatient 
after this attempt. 
Harm to others: None

PAST MEDICAL HISTORY: 3 abortions between ___
 
Social History:
SOCIAL HISTORY:
Patient is from ___.  She grew up with her mother and 
father
living in the same house, but says that they have wanted a
divorce since she was in elementary school. They are officially
separating this month. The patient went to college at ___,
but then was put on academic probation when she was having a lot
of trouble with her boyfriend.  She stopped going to school for 
___
years and worked as a ___.  ___ she started school
at ___. She plays piano.  She was supposed
to take classes during the summer, but she missed a couple of
weeks of classes due to a viral illness and had to withdrawal. 
She says she lost $17,000 in tuition. She is not sure if she 
will
return in the ___, although her parents want her to. 
She currently lives in an off campus apartment with 2 roommates. 

She does not know the roommates well as they are ___.  She has not discussed any of her issues with them. 
Denies history of abuse. 

SUBSTANCE ABUSE HISTORY:
Patient reports that she has increased her drinking over the 
past
few years, mainly due to her relationship issues. 
She drinks about 2 bottles of Soju about 4x/week. Last night she
drank ___ bottle of Smirnoff. 
Denies illicit drug use.
Smokes about 2 packs/week (will sometimes smoke 1 pack in a 
night
when she drinks). She started smoking in ___ grade. 

FORENSIC HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Patient says that her mother has a history of depression and has
"tried to commit suicide by choking herself with a pair of
jeans." in ___.  Patient thinks that her Dad may have a history
of depression, but the family never really talks about it. 
 
Physical Exam:
Heart: regular rate and rhythm, normal S1 and S2, no murmurs
appreciated
 Lungs: clear to auscultation bilaterally, no wheezes, rales or
rhonchi appreciated
 Abdomen: non-tender to palpation, normoactive bowel sounds x4,
non-distended, no guarding, masses or rebound
 Extremities: warm and well perfused, no edema in bilateral 
lower
extremities
 Neuro: pupils reactive to direct and near (3mm-2mm); EOMI;
muscles of facial expression intact and symmetric bilaterally;
shoulder-shrugs symmetric; light touch diffusely intact; 
strength
___ throughout UE and ___

___ STATUS EXAM: 
  *Appearance: young female, long hair dyed fashionably, wearing
hospital gown, appropriate hygiene, appears comfortable
  *Behavior: cooperative with interview, friendly and polite,
good eye contact
  *Speech: normal in volume, rate and prosody
  *Language: fluent in ___
  *Mood/Affect: "surprisingly fine now" / mildly dysphoric but
generally congruent with reported mood, brightens occasionally 
in
appropriate settings
  *Thought process / *associations: linear, goal-oriented, no 
LOA
  *Thought Content: denies current SI/HI/AVH
  *Judgment and Insight: limited/fair

Cognition: 
  *Wakefulness/alertness: awake and alert
  *Attention (digit span, MOYB): MOYB correctly
  *Orientation: ___, month/day/year
  *Memory: ___ immediate recall and after 5 minutes
  *Fund of knowledge: knows current and ___ president

Neurological:  
  *station and gait: within normal limits
  *tone and strength: within normal limits
 
Pertinent Results:
___ 04:17AM   GLUCOSE-115* UREA N-7 CREAT-0.5 SODIUM-145 
POTASSIUM-3.8 CHLORIDE-107 TOTAL CO2-24 ANION GAP-18
___ 04:17AM   WBC-4.8 RBC-4.38 HGB-13.4 HCT-40.9 MCV-93 
MCH-30.6 MCHC-32.8 RDW-12.5 RDWSD-43.0
___ 04:17AM   TSH-0.58
___ 04:17AM   ALT(SGPT)-8 AST(SGOT)-12 ALK PHOS-46 TOT 
BILI-0.2
___ 03:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:17AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:30AM URINE  UCG-NEG
 
Brief Hospital Course:
SAFETY:  The patient was placed on Q15 minute checks on 
admission and remained on that level of observation throughout.  
Patient was unit-restricted.  There were no acute safety issues 
during this hospitalization.
 
LEGAL: ___
PSYCHIATRIC:
# Hx of depression, s/p overdose
On admission interview, patient stated that her overdose on 
melatonin occurred in the setting of alcohol intoxication and 
was impulsive in reaction to an argument she was having with her 
boyfriend over the phone.  Although in the moment she felt like 
she wanted to die, she says she immediately self-induced 
vomiting and called an ambulance for help.  The patient reported 
an improvement in mood since initially presenting in to the ED, 
saying she felt "surprisingly fine" on admission to Deac4.  Said 
she is glad to be alive and regretted her actions.  Denied SI.  
Given reported history of depression and recent neurovegetative 
symptoms in the ___ months leading up to this hospitalization, 
patient was started on sertraline 25 mg QD which was tolerated 
well and uptitrated to 50mg QD.

Though initially lacking insight into the seriousness of her 
attempt and reluctant to tell her mother about the overdose and 
subsequent psychiatric hospitalization, the pt gradually 
demonstrated mild insight into her behaviors.  Over the course 
of hospitalization she revealed that she believed she overdosed 
as a way to get attention from her boyfriend and identified 
similarities with a prior SA by overdose on ___ several years 
ago also in reaction to an argument with a boyfriend.  After 
encouragement by the team, the pt called her mother in ___ 
and told her about her overdose and hospitalization.  During her 
time on the unit, the patient slept and ate well, and reported 
normal energy level, interest and concentration.  She 
consistently denied SI and was noted to be future-oriented 
(making plans for packing, moving to ___ to be with family, 
getting a summer job and returning to school in the 
___).  She was engaged in treatment planning and 
accepted a referral to a Partial Hospital Program in ___ as well 
as new outpatient treaters (psychiatrist and therapist).  She 
was discharged on sertraline with plan to return to ___ to 
live with her mother for the summer.

Diagnostically her presentation was felt to be most consistent 
with unspecified mood disorder (substance-induced mood disorder 
versus major depressive disorder) with concurrent alcohol use 
disorder and possible underlying character pathology (given 
tendencies toward impulsive, self-destructive behaviors over 
years).

# ETOH use disorder
Patient reported drinking ___ bottle of vodka the night prior to 
admission (serum ETOH 192 in the ED).  She denied recent daily 
drinking (though had a period of daily alcohol consumption 
several years ago), history of simple or complicated withdrawal 
or current withdrawal symptoms.  In this setting, patient was 
not placed on CIWA protocol.  Team and patient discussed her 
alcohol use and assessed for interest in cessation however the 
patient appeared to be in the precontemplative stage.  Patient 
was encouraged to attend unit AA and ___ recovery meetings and 
to follow-up in the outpatient setting.

# Tobacco use
Patient was provided with nicotine patch and Nicorette gum PRN, 
as well as smoking cessation counseling.

GENERAL MEDICAL CONDITIONS:
No reported acute or chronic medical conditions
 
PSYCHOSOCIAL:
#) GROUPS/MILIEU: Patient was encouraged to participate in the 
unit’s groups/milieu/therapy opportunities.  She attended 
psychoeducation groups daily and participated moderately.  Use 
of coping skills and mindfulness/relaxation methods were 
encouraged. Therapy addressed family/social/work issues.

#) COLLATERAL CONTACTS/FAMILY CONTACTS:
Collateral was obtained from patient's mother and school 
counseling office
A group conversation was held via telephone with the patient, 
social work and the patient's mother which focused on 
psychoeducation and discharge planning.

#) INTERVENTIONS:
- Medications: sertraline
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: by social work, patient, patient's 
mother and treatment team MDs

INFORMED CONSENT:  The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting sertraline, as well as the risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team, and 
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT: 
#) Chronic/Static Risk Factors: chronic substance use, history 
of mental illness, single marital status, prior suicide attempt
#) Modifiable Risk Factors: active substance use (alcohol) - 
modified by providing an alcohol-free environment, providing 
alcohol cessation counseling and encouraging patient to attend 
unit AA/SMART recovery meetings; active mood disturbance w/ 
suicidal ideation - modified by beginning medication and 
providing occupational and milieu therapy; no connection to 
outpatient treaters - modified by connecting to outpatient 
treaters and referring to PHP
#) Protective Factors: social support; stable living situation; 
help-seeking behaviors; able to access care; no current suicidal 
ideation during hospitalization or at time of discharge

PROGNOSIS:
Patient presented with significant reported mood disturbance 
that interfered with psychosocial functioning.  Prognosis is 
guarded without further treatment but fair with treatment given 
symptomatic improvement, reinforcement of coping techniques, 
connection with outpatient providers, motivation to seek further 
treatment and support in the community.  The patient was taught 
about warning signs and understands that there are many 
resources, including the emergency department that she can 
follow-up with.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder (substance-induced mood disorder 
versus Major Depressive Disorder)
Alcohol use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

  *Appearance: young female, long hair dyed fashionably, wearing
comfortable clothes, appropriate hygiene, appears comfortable
  *Behavior: cooperative with interview, friendly and polite,
good eye contact
  *Speech: normal in volume, rate and prosody
  *Language: fluent in ___
  *Mood/Affect: 'good' / congruent with reported mood, brightens
appropriately, thankful
  *Thought process / *associations: linear, goal-oriented, no
LOA, somewhat perseverative on discharge
  *Thought Content: denies current SI/HI/AVH
  *Judgment and Insight: fair/fair
  Cognition: grossly intact 
  *station and gait: within normal limits

 
Discharge Instructions:
You were hospitalized at ___ for depression following an 
overdose.  While you were here we started you on a new 
medication and provided several types of therapy.  You are now 
ready for discharge with continued treatment at a Partial 
Hospital Program and with your new outpatient treaters.
 
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please do not misuse alcohol or drugs (whether prescription 
drugs or illegal drugs) as this can further worsen your medical 
and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

We strongly recommend engaging in AA/NA/SMART recovery meetings 
for ongoing help with sobriety. Here is a website with links to 
meetings in ___: ___
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___